US07947712B2
A mixture of N-[(3-nitrophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide (2 g, 4.31 mmol) and 10% Pd/C (250 mg, Lancaster) in THF was hydrogenated for 20 h at 40 psi. The catalyst was filtered off, and solvent was removed under vacuum. The residue was triturated with ether, filtered and the cake was washed with ether to give 1.1 g of N-[(3-aminophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide as an off-white solid.

reactant | N-[(3-nitrophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide | 4.31 mmol, 2 g | [N+](=O)([O-])C=1C=C(C=CC1)C(NC(COC1=CC=CC=C1)=O)C1=CC(=C2C=CC=NC2=C1O)Cl | C24H18ClN3O5
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | N-[(3-aminophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide | 1.1 g | NC=1C=C(C=CC1)C(NC(COC1=CC=CC=C1)=O)C1=CC(=C2C=CC=NC2=C1O)Cl | C24H20ClN3O3
